US04624955
EXAMPLE 1 6-Ethyl-3-methyl-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine
5-Acetyl-4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine (4.60 g) was refluxed for 2 hours in 450 ml of glacial acetic acid containing 15 g of hydroxylamine hydrochloride and 1.0 g of p-toluenesulfonic acid monohydrate. At the end of this time the reaction volume was reduced to ca. 200 ml under reduced pressure and then it was poured into 800 ml of water. The amorphous precipitate was filtered off and purified over 230-400 mesh silica gel (5% ethyl acetate/dichloromethane). The appropriate fractions were combined and evaporated and the resultant crystalline product was washed with pentane to give 1.75 g, mp 181°-182° C.

reactant | 5-Acetyl-4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine | 4.60 g | C(C)(=O)C=1C(=C2C(=NC1)N(N=C2)CC)Cl | C10H10ClN3O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | p-toluenesulfonic acid monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | 800 ml | O | H2O
solvent | acetic acid | 450 ml, 15 g | C(C)(=O)O | C2H4O2
product | 6-Ethyl-3-methyl-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine | C(C)N1N=CC2=C1N=CC=1C2=NOC1C | C10H10N4O
